US04904671
4-(2-Methylimidazo[4,5-c]pyrid-1-yl)butyl 3-oxobutanoate
To a stirred solution of 2-methyl-1-(4-hydroxybutyl)imidazo[4,5-c]pyridine (0.5 g) in acetone (10 ml) at room temperature was added, dropwise, freshly distilled diketene (0.2 g). The solution was stirred at room temperature for 2 hours and then evaporated to dryness. The residue was chromatographed on silica gel eluting with a methylene chloride-ethyl acetate mixture and the fractions containing the product were evaporated under vacuum to leave the title compound, (0.51 g).

reactant | 2-methyl-1-(4-hydroxybutyl)imidazo[4,5-c]pyridine | 0.5 g | CC=1N(C2=C(C=NC=C2)N1)CCCCO | C11H15N3O
reactant | diketene | 0.2 g | C=C1CC(=O)O1 | C4H4O2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 4-(2-Methylimidazo[4,5-c]pyrid-1-yl)butyl 3-oxobutanoate | 0.51 g | O=C(CC(=O)OCCCCN1C(=NC=2C=NC=CC21)C)C | C15H19N3O3
